US06376539B1
(3aS*,6aR*)-5-Methylidene-hexahydro-cyclopenta[c]furan-1-one
At −15° C., a solution of 2-methoxycarbonyl-4-methylidenecyclopentanecarboxylic acid (189.2 g; 1.027 mol) in THF (1 L) was admixed with triethylamine (156.6 ml; 1.130 mol) and ethyl chloroformate (18.2 ml; 1.027 mol), and the reaction mixture was stirred at room temperature for 1 h. The precipitate was filtered off with suction and the filtrate was concentrated, taken up in methanol (1 L), NaBH4 (97.146 g; 2.568 mol) was added a little at a time at −15° C. and the mixture was stirred at room temperature for 1 h. For work-up, the mixture was admixed with 1 N HCl, saturated with NaCl and extracted with ethyl acetate. The combined organic phases were dried (Na2SO4) and concentrated, and the crude product was purified by chromatography.

reactant | 2-methoxycarbonyl-4-methylidenecyclopentanecarboxylic acid | 1.027 mol, 189.2 g | COC(=O)C1C(CC(C1)=C)C(=O)O | C9H12O4
reactant | triethylamine | 1.130 mol, 156.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.027 mol, 18.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 2.568 mol, 97.146 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | (3aS*,6aR*)-5-Methylidene-hexahydro-cyclopenta[c]furan-1-one | C=C1C[C@H]2[C@H](C(OC2)=O)C1 | C8H10O2
